US09422267B2
To a solution of (R)-methyl 1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxylate (500 mg, 1.351 mmol) in THF (10 mL) was added 28% aqueous ammonia (20 mL) and reaction mixture was allowed to stir at 60° C. for 24 h. The progress of reaction was monitored by LCMS. The reaction mixture was diluted with water (100 mL) and extracted with EtOAc (2×100 mL). The organic layer was separated, dried over anhydrous sodium sulfate and concentrated under vacuum to obtain a crude product which was purified by reverse phase HPLC to afford (R)-1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxamide (80 mg). 1H NMR (400 MHz, DMSO-d6, freebase) δ (ppm): 1.22 (d, 6H), 1.81-2.01 (m, 6H), 2.02-2.18 (m, 1H), 2.59-2.70 (m, 4H), 2.86-2.92 (m, 1H), 3.48 (brs, 1H), 3.67 (brs, 1H), 4.35 (d, 1H), 6.43 (brs, 1H), 6.85 (s, 1H), 7.18 (s, 1H), 8.78 (brs, 1H). The other enantiomer was prepared using the (R) chiral starting material.

reactant | (R)-methyl 1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxylate | 1.351 mmol, 500 mg | C(C)(C)C1=CC(=NN1)NC=1C2=C(N=C(N1)N1[C@H](CCC1)C(=O)OC)CCC2 | C19H26N6O2
reactant | ammonia | 20 mL | N | H3N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | (R)-1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxamide | 80 mg | C(C)(C)C1=CC(=NN1)NC=1C2=C(N=C(N1)N1[C@H](CCC1)C(=O)N)CCC2 | C18H25N7O
